US07968570B2
A mixture of 5-chloro-2-(4-trifluoromethoxy-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one (0.123 g, 0.3 mmol), Pd(PPh3)4 (0.035 g, 0.03 mmol), KCN (0.057 g, 0.88 mmol), and KI (0.125 g, 0.75 mmol) in HMPA (3 mL) was stirred at 80° C. for 18 h. Workup and silica gel column chromatography using 2:1 hexanes-ethyl acetate afforded 1-Oxo-2-(4-trifluoromethoxy-benzyl)-7-trifluoromethyl-2,3-dihydro-1H-isoindole-5-carbonitrile (0.112 g, 93%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.39 (s, 2H), 4.72 (s, 2H), 7.22 (d, 2H), 7.37 (d, 2H), 7.89 (s, 1H), 8.06 (s, 1H) GC-MS: m/z 400 (M)+, 379 (M−21)+.

reactant | 5-chloro-2-(4-trifluoromethoxy-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one | 0.3 mmol, 0.123 g | ClC=1C=C2CN(C(C2=C(C1)C(F)(F)F)=O)CC1=CC=C(C=C1)OC(F)(F)F | C17H10ClF6NO2
reactant | KCN | 0.88 mmol, 0.057 g | [C-]#N.[K+]
solvent | HMPA | 3 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
catalyst | Pd(PPh3)4 | 0.03 mmol, 0.035 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Oxo-2-(4-trifluoromethoxy-benzyl)-7-trifluoromethyl-2,3-dihydro-1H-isoindole-5-carbonitrile | 0.112 g, 93% | O=C1N(CC2=CC(=CC(=C12)C(F)(F)F)C#N)CC1=CC=C(C=C1)OC(F)(F)F | C18H10F6N2O2
